US09085581B2
Preparation of (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid zinc salt
(R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid [15 mg] was dissolved in THF [0.5 mL] and heated to 60° C. Aqueous Zn(OAc)2 [8.0 uL, 1.95 M] was added and the reaction mixture was cooled to 35° C. over 24 h. Water [8 uL] was added and the mixture was stirred at room temperature for 24 h. The reaction mixture was concentrated to dryness and EtOAc was added to provide a white solid which was collected by filtration.

reactant | (R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 15 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
reactant | Zn(OAc)2 | 1.95 M, 8.0 uL | [Zn](OC(=O)C)OC(=O)C
reactant | Water | 8 uL | O | H2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid zinc salt | [Zn+2].ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)[O-].ClC2=C1N(C=3C=CC(=CC23)OCC2=CC(=C(C=C2)OC(C)C)C(F)(F)F)CC[C@@H]1CC(=O)[O-] | InChI=1S/2C24H23ClF3NO4.Zn/c2*1-13(2)33-20-6-3-14(9-18(20)24(26,27)28)12-32-16-4-5-19-17(11-16)22(25)23-15(10-21(30)31)7-8-29(19)23;/h2*3-6,9,11,13,15H,7-8,10,12H2,1-2H3,(H,30,31);/q;;+2/p-2/t2*15-;/m11./s1
